**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Flim Capacitors
* Matchcode:             WCAP-FTY2
* Library Type:          Pspice
* Version:               rev25a
* Created/modified by:   Ella
* Date and Time:         2/14/2025
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt FTY2_890404123001CS_1nF 1 2
Rser 1 3 0.1428
Lser 2 4 0.00000000629
C1 3 4 0.000000001
Rpar 3 4 25000000000
.ends FTY2_890404123001CS_1nF
*******
.subckt FTY2_890404123003CS_2R2nF 1 2
Rser 1 3 0.075
Lser 2 4 0.0000000055
C1 3 4 0.0000000022
Rpar 3 4 25000000000
.ends FTY2_890404123003CS_2R2nF
*******
.subckt FTY2_890404123005CS_3R3nF 1 2
Rser 1 3 0.046
Lser 2 4 0.00000000706
C1 3 4 0.0000000033
Rpar 3 4 25000000000
.ends FTY2_890404123005CS_3R3nF
*******
.subckt FTY2_890404125004CS_10nF 1 2
Rser 1 3 0.101
Lser 2 4 0.00000000861
C1 3 4 0.00000001
Rpar 3 4 25000000000
.ends FTY2_890404125004CS_10nF
*******
.subckt FTY2_890404125005CS_15nF 1 2
Rser 1 3 0.077
Lser 2 4 0.00000000708
C1 3 4 0.000000015
Rpar 3 4 25000000000
.ends FTY2_890404125005CS_15nF
*******
.subckt FTY2_890404125007CS_22nF 1 2
Rser 1 3 0.061
Lser 2 4 0.0000000089
C1 3 4 0.000000022
Rpar 3 4 25000000000
.ends FTY2_890404125007CS_22nF
*******
.subckt FTY2_890404125010CS_47nF 1 2
Rser 1 3 0.034
Lser 2 4 0.00000000932
C1 3 4 0.000000047
Rpar 3 4 25000000000
.ends FTY2_890404125010CS_47nF
*******
.subckt FTY2_890404125011CS_68nF 1 2
Rser 1 3 0.035
Lser 2 4 0.00000000969
C1 3 4 0.000000068
Rpar 3 4 25000000000
.ends FTY2_890404125011CS_68nF
*******
.subckt FTY2_890404126003CS_100nF 1 2
Rser 1 3 0.052
Lser 2 4 0.00000000933
C1 3 4 0.0000001
Rpar 3 4 25000000000
.ends FTY2_890404126003CS_100nF
*******
.subckt FTY2_890404127002CS_220nF 1 2
Rser 1 3 0.027
Lser 2 4 0.0000000109
C1 3 4 0.00000022
Rpar 3 4 25000000000
.ends FTY2_890404127002CS_220nF
*******
.subckt FTY2_890404127006CS_470nF 1 2
Rser 1 3 0.018
Lser 2 4 0.0000000157
C1 3 4 0.00000047
Rpar 3 4 15950000000
.ends FTY2_890404127006CS_470nF
*******
